US09416141B2
Step 1: tert-Butyl 6-amino-5-bromo-3,4-dihydroisoquinoline-2(1H)-carboxylate (Q2)
To a solution of tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate (Q1, 683 mg, 2.75 mmol) in methylene chloride (40 mL) was added N-bromosuccinimide (NBS) (490 mg, 2.75 mmol) at 0° C. The reaction mixture was stirred for 30 min and then diluted with methylene chloride (200 mL). The resulting solution was washed with water (50 mL), saturated aqueous sodium bicarbonate (50 mL), and brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel eluting with 12% to 30% ethyl acetate/hexanes to afford compound Q2 as a white solid (743 mg, 83%): 1H NMR (500 MHz, CDCl3) δ 6.86 (d, J=8.2 Hz, 1H), 6.65 (d, J=8.2 Hz, 1H), 4.47 (s, 2H), 4.07 (s, 2H), 3.63 (t, J=5.8 Hz, 2H), 2.82 (t, J=5.8 Hz, 2H), 1.48 (s, 9H).

reactant | tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate | 2.75 mmol, 683 mg | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | N-bromosuccinimide | 2.75 mmol, 490 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 6-amino-5-bromo-3,4-dihydroisoquinoline-2(1H)-carboxylate | 743 mg, 83% | NC=1C(=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)Br | C14H19BrN2O2
